Name:  ___                   Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: PSYCHIATRY
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___.
 
Chief Complaint:
"I hope you can help me and sign a paper saying I'm not crazy"

manic/hypomanic episode
 
Major Surgical or Invasive Procedure:
none
 
History of Present Illness:
Before we were able to proceed with he interview, patient 
requested for the interview to be conducted in a more private 
space than his ED bed 36, as he was afraid of being overheard by 
other people. He was very reluctant to talk (consistent with his 
prior refusal to speak to medical personnel). Patient relayed 
his concern of his wife trying to take away their son from him, 
which
is why he didn't want to discuss any sensitive information in a 
non-private space. Patient's wish was accommodated by conducting 
the interview in a family room close to patient's ED bed. Of 
note, patient took his cell phone and a photo of his son with 
him to the interview room.

Once in a closed family room, patient became notably talkative. 
He reported that he was experiencing a "nervous breakdown", a 
"spiritual awakening" and "ego destruction". He said that he was 
able to experience more emotions now, to better empathize with 
other people (which lead him to the idea of becoming a 
psychotherapist), to "hear" his deceased mother (not as hearing
voices in his head but rather through experiencing the 
world),to"see" angels (again, not by literally seeing them but 
by
experiencing them around him) despite being a ___ and an
atheist. Patient attributed these changes to an increased
consumption of smoked and edible medical marijuana that, per his
own admission, he increasingly abused over the past few weeks.
Patient also noted that Wellbutrin, which he has been taking for
the past 6 months, may have contributed as well.
Overall, patient sees these changes as positive. He denies 
having
any recent issues at work - in fact, he says he's quite
successful and well liked and that his immediate female
supervisor has a crush on him.

One thing that makes patient concerned, however, is upsetting 
and
scaring many people by telling them the truth (patient says he's
compelled to tell the truth now). The people include patient's
father who became so concerned that he's flying in to ___ 
from
___ on ___, and patient's ___ son who's been scared of
him (even though patient vehemently denies any physical violence
or even raising his voice to his son). Patient says that many
people around him, including his family, ex-wife and therapist,
think he's "crazy" and that he needs a professional confirmation
that he's not crazy but is experiencing spiritual awakening. 
This
confirmation is particularly important to patient given the fear
of his son being taken away by his ex-wife now that she's
planning to marry another man.
Patient was vehement about not wanting to hurt anyone, and
especially not his son, and being a good father. However, he did
express some concerns about scaring his son or accidentally
hurting him in the condition he is now. (Patient becomes tearful
whenever he talks about his son and says he would rather kill
himself that let anything bad happen to his son, though also
denying that he has any thoughts of killing himself.)
Patient says that he came to the ED because of the concerns of
his family members and his therapist, and also to get a
confirmation that he is not "crazy".

Patient endorses rushing thoughts, having a lot of ideas, 
talking
a lot, significant anxiety, irritability and having difficulty
sleeping (he says he didn't sleep at all for a couple of nights
before the last night). He denies current depressed mood or
anhedonia but says he was depressed 6 months ago when he was
first started on bupropion. He denies any frank A/VH or 
delusions
of reference but exhibits clear paranoia. He expresses increased
spirituality ("despite being an atheist and a scientist") and
even passingly mentions himself to be the second coming of Jesus
Christ (which is why he's compelled to tell the truth to
everyone). He denies any thoughts of hurting himself or others.
Patient denies having similar episodes before, although he
reports a "panic attack" ___ years ago, which felt similar in 
some
ways and for which patient went to an ED but was not
hospitalized.

It's unclear how long patient has been having these symptoms. 
Per
patient, this has been going on for weeks, but per patient's
therapist, patient has been "manicky" over the past week and
particularly today (see collateral from therapist below). 

COLLATERAL from patient's therapist ___
___:
- this therapist only saw patient for 6 appointments, five over
an online psychotherapy platform (patient initially contacted 
her
because of concerns of going insane, anxiety and fears related 
to
losing his son) and one a week ago in person after a month-long
break (therapist quit the online platform they used to interact
on and patient contacted her office to meet in person);
- per therapist, patient started appearing "manicky" when she 
saw
him last week, and this significantly exacerbated by today;
- patient and therapist had four phone conversations today, with
patient sounding increasingly "manicky", perseverating on the
idea of being a good person and not wanting to hurt anyone, with
some delusions surrounding spirituality and concerns about his
safety; patient was labile and exhibited pressured speech; his
therapist insisted on patient coming to an ED for an evaluation;
- therapist was unable to provide much of a past psychiatric
history but said that, to the best of her knowledge, patient has
no history of psychiatric hospitalizations, suicide attempts, or
violence;
- therapist also confirmed that patient worked at a high level
professional job and that his father was flying in from
___.

Patient refused giving a phone number of anyone from his family,
including his father, stating concern for their emotional
wellness. He refused giving his ex-wife's phone number out of
fear of losing hiss son. 
I attempted to call patient's PCP ___ 3 pm but the office was
closed. 
 
Past Medical History:
AST PSYCHIATRIC HISTORY:
- patient denies any formal psychiatric history aside from
life-long anxiety, a possible panic attack and depression 
earlier
this year
Hospitalizations:
- patient denies ever being psychiatrically hospitalized;
- patient reports one ED visit ___ years ago" for a possible
panic attack
Current treaters and treatment:
- therapist ___ ___
- psychiatric medications are prescribed by patient's PCP 
___, NP at ___ ___
- patient denies ever having a psychiatrist
Medication and ECT trials:
- bupropion;
- no ECT trials
Self-injury:
- endorses superficial forearm cutting years ago when he was a
teenager but not recently;
- denies any suicide attempts (no prior suicide attempts per
patient's therapist)
Harm to others: denies
Access to weapons: denies

PAST MEDICAL HISTORY:
- psoriasis;
- back pain

ALLERGIES: 
- NKDA

 
Social History:
SOCIAL HISTORY:
Patient is born and raised in ___ in an intact family with
siblings. Patient's beloved mother was a nurse and passed away ___
years ago ___ complications of pancreatic cancer; the rest of 
his family lives in ___. Patient has been living in the ___ 
on and off for the past few years, both for his work and because 
of his son now living in the ___. Patient
says he doesn't really have anyone else in the US.
Patient reports getting a ___ degree in psychology from
the second ___ in ___ and currently having a
professional job at ___, which allows him to work mostly
remotely; he describes himself as a ___. Per patient's
therapist, patient was a ___ until he was promoted
about a month ago. Patient describes himself as successful and
highly liked at his job; patient's therapist corroborates that
patient appears to have good supportive relationships with his
colleagues and supervisors.
Patient lives in an apartment he rents in ___.
Patient is divorced and has a ___ son ___. Per patient, he has 
a
difficult relationship with his ex-wife, who after their divorce
"abducted" their son from ___ where they lived at the time
to the ___ where she's originally from. Patient states he's
currently in the ___ mainly because of his son, whom he gets to
see on certain weekends and weekdays. As patient's ex-wife is
getting ready to get married to another man, patient is very
concerned that she would take action to obtain sole custody of
their son.  

FORENSIC HISTORY: denies
Arrests: denies
Convictions and jail terms: denies
Current status (pending charges, probation, parole): denies

SUBSTANCE ABUSE HISTORY:
- tobacco: never smoker;
- alcohol: patient endorses history of being "an alcoholic" for
years drinking ___ bottle of whiskey every night. He reports 
that
he "quit drinking all by [him]self" 3 months ago and that his
last drink was weeks ago. Of note, patient had a prescription 
for
disulfiram in ___ supporting his sobriety efforts. 
Patient
denies any history of complicated withdrawal including alcoholic
hallucinosis, DT, seizures;
- marijuana: patient reports having a medical marijuana card for
back pain, which he, per patient's own report, "abuses". Patient
couldn't quantify the amount of marijuana he takes but noted 
that
he both smokes it and uses edible marijuana products, and that
his marijuana intake has significantly increased over the past
few weeks. Patient last used marijuana yesterday;
- illicit drugs: patient denies any illicit drug use

Trauma/Domestic Violence: 
Patient denies any history of trauma. He endorses emotional 
abuse
between him and his ex-wife but denies being either perpetrator
or victim of domestic violence.
 
Family History:
FAMILY PSYCHIATRIC HISTORY:
- patient denies any knowledge of mental illness in his family,
aside from one of his cousins with "mental health issues" and
substance use disorders whom he believes to be dead
 
Physical Exam:
EXAM:
*VS:  T 98.1   HR 80   BP 126/89   RR 16   SpO2 99% RA 

Neurological: 
 *station and gait: normal/normal
 *tone and strength: moves all four extremities spontaneously
against gravity
 cranial nerves: grossly intact
 abnormal movements: none observed

Cognition: 
 Wakefulness/alertness: awake and alert
 *Attention (digit span, MOYB): completes MOYB on the third
attempt after derailing twice by starting to talk about things 
of
concern to patient
 *Orientation: oriented to person, place, date and situation
 *Memory: ___ registration, ___ delayed recall, long term memory
grossly intact
 *Fund of knowledge: intact to the last 4 US presidents (with
patient starting to talk about individual characteristics of 
each
of them, as well as his opinions on their politics)
 Calculations: "$1.75" = "7 quarters"
 Abstraction: "apples and oranges" = "fruit"; "you can't judge a
book by its cover" = "Appearances are often wrong, you need to
get to know the person to know what's true... I have a real
empathic understanding of people"
 *Speech: abundant, pressured, fast, normal volume and tone, no
dysarthria, slight ___ accent
 *Language: native ___ speaker, fluent, appropriate to
conversation, no paraphasic errors

Mental Status: 
 *Appearance: well appearing young man appearing his stated age
or younger, good grooming and hygiene
 Behavior: with this interviewer after being accommodated to 
have
the interview in a closed room - friendly, pleasant, 
cooperative,
good eye contact, no psychomotor retardation, minimal 
psychomotor
agitation
 *Mood and Affect: "good"/notably labile ranging from anxious to
expansive to tearful
 *Thought process / *associations: verbose, tangential, some
flight of ideas; no loose associations
 *Thought Content: denies SI, HI, frank A/VH and delusions of
reference; notable for paranoia, grandiosity and focus on
spirituality
 *Judgment and Insight: poor/poor

 
Pertinent Results:
DATA:
Labs:
___ 02:25PM BLOOD WBC: 8.5 RBC: 5.39 Hgb: 15.9 Hct: 46.3
MCV: 86 MCH: 29.5 MCHC: 34.3 RDW: 12.3 RDWSD: 38.___ 
___ 02:25PM BLOOD Neuts: 62.5 Lymphs: ___ Monos: 11.6 Eos:
2.0 Baso: 0.8 Im ___: 0.4 AbsNeut: 5.31 AbsLymp: 1.93 AbsMono:
0.99* AbsEos: 0.17 AbsBaso: 0.07 
___ 02:25PM BLOOD Plt Ct: 328 
___ 02:25PM BLOOD Glucose: 133* UreaN: 13 Creat: 0.9 Na: 
141
K: 3.9 Cl: 103 HCO3: 21* AnGap: 17 
___ 02:25PM BLOOD ASA: NEG Ethanol: NEG Acetmnp: NEG
Tricycl: NEG 
___ 03:09PM URINE Color: Yellow Appear: Hazy* Sp ___: 
1.026

___ 03:09PM URINE Blood: NEG Nitrite: NEG Protein: TR*
Glucose: NEG Ketone: NEG Bilirub: NEG Urobiln: NEG pH: 6.5 
Leuks:
NEG 
___ 03:09PM URINE RBC: <1 WBC: 0 Bacteri: NONE Yeast: NONE
Epi: 0 
___ 03:09PM URINE AmorphX: RARE* 
___ 03:09PM URINE bnzodzp: NEG barbitr: NEG opiates: NEG
cocaine: NEG amphetm: NEG oxycodn: NEG mthdone: NEG 

___ 06:20AM BLOOD Triglyc-168* HDL-38* CHOL/HD-5.5 
LDLcalc-137*
___ 06:20AM BLOOD Calcium-9.6 Phos-2.9 Mg-2.0 Cholest-209*
___ 06:20AM BLOOD TSH-0.___ divorced professional from ___ with no formal 
psychiatric history but self-reported life-long anxiety, 
possible panic attacks and recent depression, history of 
self-harm by cutting when he was a ___, no suicide attempts 
and no prior psychiatric hospitalizations, and history of 
significant alcohol and marijuana use, who self-presented to the 
ED on advice from his therapist and family members reporting 
severe anxiety, concerns of his mental well-being and fears that 
his ex-wife would take away their son. Psychiatry was consulted 
for safety evaluation and management.

Patient's presentation was notable for a pleasant well appearing 
young man with good grooming and hygiene, fast pressured speech, 
labile affect, verbose tangential thought process with flight of 
ideas, and thought content notable for paranoia, grandiosity and 
spirituality-related delusions. Patient's cognitive exam was 
largely normal aside from his distractibility during attention 
testing, his general labs are normal and his Utox and Stox are 
negative consistent with patient's report of not using any other 
substances aside from marijuana (which is not detected by our
basic tests).

Overall, patient's presentation and history (particularly 
reports of not being able to sleep, having rushing thoughts, 
increased activity and irritability) are consistent with a manic 
episode. Patient's manic episode could be part of a primary 
psychiatric disorder, bipolar I disorder, although ___ is older 
than typical age of first manic presentation in a man and it's 
not clear if patient had manic episodes before (although he 
apparently experienced depression before, and his self-reported 
episodes of anxiety and "panic attacks" may have been hypomanic 
episodes) or if there is any family history of bipolar disorder. 
Alternatively, patient's presentation, particularly his 
paranoia, may have been caused by patient's increasing marijuana 
use, or a combination of an underlying psychiatric disorder and 
marijuana use.

In the ED, patient's utox and serum tox were negative and all 
other labs were unremarkable. 

Given patient's poor insight and judgement due to mania, 
patient's paranoia, irritability, affective lability and 
significant concern about him from his therapist and his ___ 
father who's flying in from ___, patient met criterion 3 
of ___.

On the unit, patient signed a CV and three day notice. He was 
started on 5 mg of abilify. He became progressively less labile, 
paranoid and pressured in his speech. He participated in group 
activities and was social on the unit. He demonstrated improved 
judgement and insight as well. Collateral from family and 
friends suggested that this was the patient's first episode of 
mania or hypomania and that he had been under significant stress 
due to strained relationship with his ex-wife and fearing loss 
of access to his son. The patient remained unable to quantify 
the amount of THC-containing edibles he consumed the day of his 
presentation, but maintained it was large amount. He agreed to a 
discharge plan that includes attending an intake at a ___ 
program in ___ and long term care with a new outpatient 
therapist closer to home as well as an outpatient psychiatrist. 
His family will be staying with him for the next two weeks. He 
is in a agreement with a plant to avoid drugs and alcohol, 
particularly in light of his history of alcohol use and possible 
vulnerability to substance-induced mania with cannabis.

On ___, family meeting with the patient, his brother, his 
father, Dr. ___, Dr. ___ 
was held. The family articulated their
concerns about the intensity of the patient's recent 
self-analysis and his manic symptoms. They denied noticing any 
pressured speech or labile affect before the last couple of 
days. The family also discussed the role of cannabis in 
precipitating
the patient's symptoms, and discussed with Dr. ___ 
difficulty of finding a concrete diagnosis given the spectrum of 
mental health and the variation in susceptibility to psychosis 
among the general population. The patient remembered that he had 
been given a referral to a psychiatrist but had not been able to 
follow up, expressed a strong desire to find a therapist, and 
agreed that he
would benefit from a partial. 
Patient and his family were educated about pt's condition, 
offered opportunity to share their concerns. Pt and family were 
provided with info about medications. Family and patient were 
educated about options of support (e.g., NAMI).

On ___, Mr. ___ confirmed that he would like to be 
discharged. He denied any complains. Reported feeling definitely 
better. Denied any side effects from Abilify. He reported good 
sleep at night. He said he feels positively excited about 
opportunity to see his son later tonight. He denied any physical 
complains. Denied pain/N/V/D/C. Clearly denied S/H/I. He shared 
about appropriate steps in case of emergency. He shared that he 
also set up an appointment with outpatient therapist (contact 
was given by pt's current outpatient psychiatrist).
On formal assessment of cognition, Mr. ___ had mild attentional 
problems (6df and 4db). Pt was educated that he should avoid 
starting new big projects, or make bid decisions about career 
etc.  Mr. ___ expressed understanding and agreed with that. 
Overall, he shared about his positive experience during this 
admission.

 
Medications on Admission:
- bupropion XL 150 mg daily
- multivitamin

 
Discharge Medications:
Abilify 5 mg qHS

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Manic episode, likely substance-induced.
 
Discharge Condition:
Mental Status:
-Appearance: man appearing stated age, well groomed, wearing
casual color coordinated outfit and in no apparent distress 
-Behavior: Sitting up in chair appropriate eye contact, no
psychomotor agitation or retardation 
-Attitude: Cooperative, engaged, friendly 
-Mood: "more calm" 
-Affect: Mood-congruent, full range, appropriate to situation
-Speech:  normal rate, volume, and tone 
-Thought process: linear and goal directed
-Thought Content: 
---Safety: Denies SI/HI 
---Delusions: none evident
---Obsessions/Compulsions: No evidence based on current 
encounter

---Hallucinations: Denies AVH, not appearing to be attending to
internal stimuli 
-Insight: good
-Judgment: fair to good

On formal assessment of cognition: his attention and 
concentration are mildly decreased (at least 6df and 4db).
 
Discharge Instructions:
-Please follow up with all outpatient appointments as listed - 
take this discharge paperwork to your appointments.
-Unless a limited duration is specified in the prescription, 
please continue all medications as directed until your 
prescriber tells you to stop or change.
-Please avoid abusing alcohol and any drugs--whether 
prescription drugs or illegal drugs--as this can further worsen 
your medical and psychiatric illnesses.
-Please contact your outpatient psychiatrist or other providers 
if you have any concerns.
-Please call ___ or go to your nearest emergency room if you 
feel unsafe in any way and are unable to immediately reach your 
health care providers.
It was a pleasure to have worked with you, and we wish you the 
best of health.
 
Followup Instructions:
___